*****************************************************************
* NXP BUK9K29-100E
*
* Polarity N-Channel
* Ratings 100V/2.900000E-002OHMS/30A
*
* Date Created Thu Jul 05 00:30:59 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K29-100E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0230257291365199 TC=0.00570362278156216,3.39195598535136E-05
RBD 9 4 0.00194129327435503 TC=0.00570362278156216,3.39195598535136E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 2.528e-09
RG 1 2 1.47663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1670.17
+ -16	1669.49
+ -10	1666.72
+ -5	1659.93
+ -4	1656.99
+ -3	1652.08
+ -2	1631.92
+ -1	1612.54
+ -0.5	1591.2
+ -0.2	1566.73
+ -0.1	1555.49
+ 0	1173.45
+ 0.1	685.293
+ 0.2	594.361
+ 0.5	452.507
+ 1	371.426
+ 2	276.543
+ 3	236.923
+ 4	212.307
+ 5	194.593
+ 6	180.735
+ 8	161.181
+ 10	147.322
+ 12	136.723
+ 15	124.862
+ 20	110.617
+ 50	74.034



.MODEL MINT NMOS(Vto=1.88364568259974 Kp=1.976797e+002 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=4.06428235235206e-12
+ N=1 M=0.46 VJ=0.54 Fc=0.5 Cjo=5.86904e-10 Tt=3.27e-08)

.ENDS
